US08536176B2
(1) 5-Bromo-2-(tert-butyldimethylsilanyloxymethyl)-3-methylpyridine
To a solution of 5-bromo-2-hydroxymethyl-3-methylpyridine (1 g, 5 mmol) in N,N-dimethylformamide (50 mL) was added triethylamine (1.56 mL, 15 mmol) and tert-butylchlorodimethylsilane (1.13 g, 7.5 mmol). The mixture was stirred at room temperature for 4 hours, diluted with water (50 mL) and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to give the title compound as a colorless oil (1.51 g, yield 100%).

reactant | 5-bromo-2-hydroxymethyl-3-methylpyridine | 5 mmol, 1 g | BrC=1C=C(C(=NC1)CO)C | C7H8BrNO
reactant | triethylamine | 15 mmol, 1.56 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butylchlorodimethylsilane | 7.5 mmol, 1.13 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 5-Bromo-2-(tert-butyldimethylsilanyloxymethyl)-3-methylpyridine | 1.51 g, yield 100% | BrC=1C=C(C(=NC1)CO[Si](C)(C)C(C)(C)C)C | C13H22BrNOSi
